US08008525B2
Ethyl 3-[3-fluoro-4-({3-[2-(methylamino)-2-oxoethoxy]benzyl}oxy)phenyl]propanoate
A solution of (3-{[4-(3-ethoxy-3-oxopropyl)-2-fluorophenoxy]methyl}phenoxy)acetic acid (0.34 g, 0.90 mmol), methylamine hydrochloride (0.073 g, 1.08 mmol), triethylamine (0.22 g, 2.16 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.21 g, 1.08 mmol) and 1-hydroxybenzotriazole (0.15 g, 1.08 mmol) in DMF (7 mL) was stirred at room temperature for 18 hours. Then, water was added to the reaction mixture and extracted with ethyl acetate. The organic layer was washed successively with saturated brine and water, and concentrated under reduced pressure. The resulting residue was purified with silica gel column chromatography (hexane/ethyl acetate=2:8) to give the title compound (0.34 g, yield 97%) as an oily matter.

reactant | (3-{[4-(3-ethoxy-3-oxopropyl)-2-fluorophenoxy]methyl}phenoxy)acetic acid | 0.90 mmol, 0.34 g | C(C)OC(CCC1=CC(=C(OCC=2C=C(OCC(=O)O)C=CC2)C=C1)F)=O | C20H21FO6
reactant | methylamine hydrochloride | 1.08 mmol, 0.073 g | Cl.CN
reactant | triethylamine | 2.16 mmol, 0.22 g | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.08 mmol, 0.21 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 1.08 mmol, 0.15 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Ethyl 3-[3-fluoro-4-({3-[2-(methylamino)-2-oxoethoxy]benzyl}oxy)phenyl]propanoate | 0.34 g, yield 97% | FC=1C=C(C=CC1OCC1=CC(=CC=C1)OCC(=O)NC)CCC(=O)OCC | C21H24FNO5
